Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fall backwards with headstrike
 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
___ Eu Critical is a ___ male with cognitive delay
who presents to ___ on ___ with a mild TBI. Pt
was seated on a stone wall and fell backward onto cement. No 
LOC.
Pt was able to walk himself to bathroom. Some time later he was
seizing in the back seat of the car, generalized tonic clonic
seizure.  Caretaker called ___. Patient seized again in the
ambulance and EMS administered Versed IM. Pt was taken to 
helipad
in ___ and ___ to ___.  Of note Pt is nonverbal at
baseline with cognitive delays, no hx of sz in the ___ years his
caretaker has been caring for him. Pt was taken off all
psychotropic medications in ___ only takes 81mg
aspirin, a statin (unknown) and metoprolol (unknown dose).

Initial GCS on arrival to ___ was 3 however likely attributed
to paralytics and sedation

 
Past Medical History:
- HTN
- HLD                       
- ? right thoracotomy

 
Social History:
___
Family History:
Unknown 
 
Physical Exam:
ON ADMISSION: 
============

GCS upon Neurosurgery Evaluation:10T  Time of ___

Airway: [x]Intubated   [ ]Not intubated

Eye Opening: 
 [ ]1 Does not open eyes
 [ ]2 Opens eyes to painful stimuli
 [x]3 Opens eyes to voice
 [ ]4 Opens eyes spontaneously

Verbal:
 [x]1 Makes no sounds
 [ ]2 Incomprehensible sounds
 [ ]3 Inappropriate words
 [ ]4 Confused, disoriented
 [ ]5 Oriented

Motor:
 [ ]1 No movement
 [ ]2 Extension to painful stimuli (decerebrate response)
 [ ]3 Abnormal flexion to painful stimuli (decorticate response)
 [ ___ Flexion/ withdrawal to painful stimuli 
 [ ]5 Localizes to painful stimuli
 [x]6 Obeys commands

Exam:

Gen: WD/WN, comfortable, NAD.
HEENT: C-collar in place
Extrem: warm and well perfused

Neuro:

Mental Status: 
If Intubated:
  [x]Cough  [x]Gag  [x]Over breathing the vent

PERRLA
+ nystagmus with lateral gaze bilaterally

Motor: 
decreased bulk and normal tone bilaterally. No abnormal
movements, tremors. 
Does not follow a complete motor exam
Grip, bicep, tricep ___ bilaterally 
IP, AT, Gastroc ___ bilaterally

Sensation: Intact to light touch

=
=
================================================================

EXAM ON DISCHARGE:
=================

Exam: 

___ 15
Airway: [x]Not intubated

Eye Opening: 
 [ ]1 Does not open eyes
 [ ]2 Opens eyes to painful stimuli
 [ ]3 Opens eyes to voice
 [x]4 Opens eyes spontaneously

Verbal:
 [ ]1 Makes no sounds
 [ ]2 Incomprehensible sounds
 [ ]3 Inappropriate words
 [ ]4 Confused, disoriented
 [x]5 Oriented

Motor:
 [ ]1 No movement
 [ ]2 Extension to painful stimuli (decerebrate response)
 [ ]3 Abnormal flexion to painful stimuli (decorticate response)
 [ ___ Flexion/ withdrawal to painful stimuli 
 [ ]5 Localizes to painful stimuli
 [x]6 Obeys commands

___ Total: 15

Exam: *patient with baseline cognitive delay*

Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious 

Orientation: [x]Person [x]Place [x]Time  

Follows commands: [ ]Simple [x]Complex [ ]None

Pupils:  PERRL 3-2mm bilaterally 

EOM: [x]Full [ ]Restricted  

Face Symmetric: [x]Yes [ ]NoTongue Midline: [x]Yes [ ]No

Pronator Drift [ ]Yes [x]No     

Speech Fluent: [ ]Yes [x]No - Patient with cognitive delay,
speech dysarthric, but now at his baseline.  

Comprehension intact [x]Yes [ ]No

Motor:
TrapDeltoidBicepTricepGrip

IPQuadHamATEHLGast

[x]Sensation intact to light touch

 
Pertinent Results:
Please see OMR for pertinent imaging and lab results 
 
Brief Hospital Course:
#TBI
Patient was medflighted to ___ ER from OSH s/p fall backwards 
with headstrike on ___. Patient was intibated on arrival 
after having two witnessed generalized tonic clonic seizures. He 
was loaded with Keppra on arrival and taken for stat NCHCT. 
NCHCT demonstrated left temp SAh and contusion. Patient was 
admitted to neuro ICU for further care. Repeat NCHCT on ___ 
demonstrated stable to improved tSAH. Patient was successfully 
extubated and exam returned to baseline. He was called out of 
the neuro ICU to the ___. ACS evaluated the patient and 
determined he did not sustain any further injuries. Patient exam 
remained intact at his baseline and was medically stable for 
discharge on ___ with home ___ services. 

#Seizures
Patient experienced two GTC seizures after his headstrike. He 
was started on keppra and had no further seizure episodes during 
his admission. Patient discharged on Keppra with follow up in 
the ___ clinic/neurology for further seizure management. 

#Bradycardia
Patient HR was noted to be bradycardic in the low ___. His home 
metoprolol was held, and the bradycardia resolved. Patient HR 
maintained NSR. His blood pressure was well controlled off the 
metoprolol, therefore, this medication was not restarted. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Metoprolol Succinate XL 25 mg PO DAILY 
3. Docusate Sodium 100 mg PO DAILY:PRN Constipation - First Line 

4. Atorvastatin 10 mg PO QPM 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild/Fever 
Do not exceed greater than 4g (4000mg) in 24 hours.   
2.  LevETIRAcetam 1500 mg PO BID 
RX *levetiracetam [Keppra] 1,000 mg 1.5 tablet(s) by mouth twice 
a day Disp #*100 Tablet Refills:*3 
3.  Atorvastatin 10 mg PO QPM  
4.  Docusate Sodium 100 mg PO DAILY:PRN Constipation - First 
Line  
5. HELD- Aspirin 81 mg PO DAILY  This medication was held. Do 
not restart Aspirin until Until cleared by your neurosurgeon at 
follow up 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Traumatic Brain Injury
Traumatic Subarachnoid Hemorrhage 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions

Traumatic Brain Injury

Activity

- We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.

- You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.

- No driving while taking any narcotic or sedating medication. 

- If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 

- No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications

- Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 

- You have been discharged on Keppra (Levetiracetam). This 
medication helps to prevent seizures. Please continue this 
medication as indicated on your discharge instruction. It is 
important that you take this medication consistently and on 
time.

- You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

- Your metoprolol was stopped during this admission because your 
heart rate was too low. You did not have any issues with 
elevated blood pressure while off of metoprolol, therefore, this 
medication was not restarted. 

What You ___ Experience:

- You may have difficulty paying attention, concentrating, and 
remembering new information.

- Emotional and/or behavioral difficulties are common. 

- Feeling more tired, restlessness, irritability, and mood 
swings are also common.

- Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

Headaches:

- Headache is one of the most common symptoms after traumatic 
brain injury. Headaches can be long-lasting. 

- Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 

- Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 

- There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


More Information about Brain Injuries:

- You were given information about headaches after TBI and the 
impact that TBI can have on your family.

- If you would like to read more about other topics such as: 
sleeping, driving, cognitive problems, emotional problems, 
fatigue, seizures, return to school, depression, balance, or/and 
sexuality after TBI, please ask our staff for this information 
or visit ___

When to Call Your Doctor at ___ for:

- Severe pain, swelling, redness or drainage from the incision 
site. 

- Fever greater than 101.5 degrees Fahrenheit

- Nausea and/or vomiting

- Extreme sleepiness and not being able to stay awake

- Severe headaches not relieved by pain relievers

- Seizures

- Any new problems with your vision or ability to speak

- Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:

- Sudden numbness or weakness in the face, arm, or leg

- Sudden confusion or trouble speaking or understanding

- Sudden trouble walking, dizziness, or loss of balance or 
coordination

- Sudden severe headaches with no known reason

 
Followup Instructions:
___